US05834506
5-(4-Amino-phenyl)-2-methyl-pentan-3-one
A mixture of 13.6 g (62 mmol) of 2-methyl-5-(4-nitro-phenyl)-pentan-3-one (Y. Huang, L. Shi, S. Li, Synthesis, 1988, 975-977), 400 mL of THF, and 2.6 g of Raney Nickel was shaken in a hydrogen atmosphere (24 p.s.i.) at 25° C. for 56 hours. The catalyst was filtered, and the filtrate was concentrated to give the title compound. 1H NMR (CDCl3) δ 1.01 (d, 6 H), 2.46-2.55 (m, 1 H), 2.65-2.83 (m, 4 H), 3.55 (br s, 2 H), 6.56 (d, 2 H), 6.92 (d, 2 H).

reactant | 2-methyl-5-(4-nitro-phenyl)-pentan-3-one | 62 mmol, 13.6 g | CC(C)C(CCC1=CC=C(C=C1)[N+](=O)[O-])=O | C12H15NO3
reactant | hydrogen | [H][H] | H2
catalyst | Raney Nickel | 2.6 g | [Ni] | Ni
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | 5-(4-Amino-phenyl)-2-methyl-pentan-3-one | NC1=CC=C(C=C1)CCC(C(C)C)=O | C12H17NO
